US08071607B2
Compound 9C. 5-Hydrazino-2-chloro-benzamide
Title compound 9B, 5-amino-2-chloro-benzamide (1.05 g, 6.13 mmol) was dissolved in a concentrated aqueous solution of HCl (10 ml) and cooled to 0° C. To this a cooled solution of NaNO2 (0.54 g, 1.5 eq, 9.19 mmol) in water (4 ml) was added over 15 minutes whilst maintaining the temperature below 10° C. The reaction was then cooled to 0° C. and stirred for 1 hour. To the reaction mixture sulfamic acid (0.3 g, 0.5 eq, 3.06 mmol) was added portion wise over a 20 minute period, a solution of tin chloride dihydrate (4.15 g, 3.0 eq, 18.4 mmol) in a concentrated aqueous HCl solution (4 ml) was then added drop wise over a 20 minute period whilst maintaining the temperature below 15° C. The reaction mixture then stirred at 0° C. for 2 hours then basified to pH 14 with 5M NaOH (aq) whilst maintaining the reaction temperature below 30° C. The reaction mixture was then rapidly extracted with ethyl acetate (2×50 ml), the organics combined, washed with brine, dried over Na2SO4 and solvent removed in vacuo to give the title compound (0.33 g, 1.8 mmol, 29%). LC-MS: [M+H]+=186, Rt=0.53 min, 96% purity.

reactant | 5-amino-2-chloro-benzamide | 6.13 mmol, 1.05 g | NC=1C=CC(=C(C(=O)N)C1)Cl | C7H7ClN2O
reactant | NaNO2 | 9.19 mmol, 0.54 g, 1.5 eq | N(=O)[O-].[Na+]
reactant | sulfamic acid | 3.06 mmol, 0.3 g, 0.5 eq | S(N)(O)(=O)=O | H3NO3S
reactant | tin chloride dihydrate | 18.4 mmol, 4.15 g, 3.0 eq | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | NaOH | 5M | [OH-].[Na+]
solvent | HCl | 10 ml | Cl | ClH
solvent | water | 4 ml | O | H2O
catalyst | compound 9B | C1=CC(=C(C(=C1[O-])Cl)Cl)Cl.C1=CC(=C(C(=C1[O-])Cl)Cl)Cl.[Zn+2]
solvent | HCl | 4 ml | Cl | ClH
product | 5-Hydrazino-2-chloro-benzamide | 1.8 mmol, 0.33 g, 29% | N(N)C=1C=CC(=C(C(=O)N)C1)Cl | C7H8ClN3O
